US09023847B2
23. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-fluoro-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(4-fluorophenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 381 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.19 (1H, br. s.) 10.45 (1H, s) 8.21 (1H, t, J=5.76 Hz) 8.07 (1H, d, J=6.64 Hz) 7.86 (1H, d, J=5.27 Hz) 7.42 (1H, dd, J=3.12, 1.76 Hz) 7.36 (1H, d, J=5.27 Hz) 7.18 (2H, dd, J=8.79, 5.66 Hz) 7.00 (2H, t, J=8.98 Hz) 6.73 (1H, d, J=6.44 Hz) 6.63 (1H, d, J=3.32 Hz) 3.39-3.47 (2H, m) 2.75 (2H, t, J=7.22 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(4-fluorophenyl)ethylamine | FC1=CC=C(C=C1)CCN | C8H10FN
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-fluoro-phenyl)-ethyl]-amide | FC1=CC=C(C=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H17FN4OS
